US04554279
To a solution of sodium metal (4.8 g, 0.2 g. atom) in methanol (300 ml) were added 50.6 g (0.2 mole) of 5-chloro-6-methoxy-4-methyl-8-nitroquinoline and 70 ml of pyridine. The mixture was stirred under reflux for 48 hr, treated with carbon and filtered hot. The residue was washed with hot methanol and the filtrate and washings were combined (total, 600 ml). On standing, 15 g of 5,6-dimethoxy-4-methyl-8-nitroquinoline, separated, mp 120°-124°. The filtrate was concentrated to 200 ml and cooled overnight to give an additional 15 g of 5,6-dimethoxy-4-methyl-8-nitroquinoline. Dilution of this filtrate with 6 liters of water provided 7 g of product for a total crude yield of 37 g. Crystallization from methanol (carbon) gave 34 g (68%) of 5,6-dimethoxy-4-methyl-8-nitroquinoline, mp 123°-125°. The same compound (m.p. and mixed m.p. 123°-125°) resulted when a Skraup reaction was performed on 4-amino-5-nitroveratrole and methyl vinyl ketone.

reactant | sodium | 4.8 g | [Na] | Na
reactant | 5-chloro-6-methoxy-4-methyl-8-nitroquinoline | 0.2 mole, 50.6 g | ClC1=C2C(=CC=NC2=C(C=C1OC)[N+](=O)[O-])C | C11H9ClN2O3
reactant | pyridine | 70 ml | N1=CC=CC=C1 | C5H5N
reactant | methanol | 300 ml | CO | CH4O
product | 5,6-dimethoxy-4-methyl-8-nitroquinoline | 15 g | COC1=C2C(=CC=NC2=C(C=C1OC)[N+](=O)[O-])C | C12H12N2O4
